US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (500 mg, 2.259 mmol) in THF (5 ml) at −78° C. was added dropwise tert-butyllithium 1.7 M in pentane (1595 μl, 2.71 mmol) and the solution was stirred for 0.5 h before addition of 3-fluoro-4-isopropoxybenzonitrile (405 mg, 2.259 mmol) in THF (5 ml). The resulting solution was warmed to rt and stirred for 16 h. The reaction mixture was quenched with water, neutralized with 1 N HCl. The precipitated solid was collected washing with water to give 3-(3-fluoro-4-isopropoxyphenyl)-6-methoxyisoquinolin-1-ol (520 mg, 70% yield) as a solid after drying. MS: MS m/z 328.1 (M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 2.259 mmol, 500 mg | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 2.71 mmol, 1595 μl | CCCCC | C5H12
reactant | 3-fluoro-4-isopropoxybenzonitrile | 2.259 mmol, 405 mg | FC=1C=C(C#N)C=CC1OC(C)C | C10H10FNO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(3-fluoro-4-isopropoxyphenyl)-6-methoxyisoquinolin-1-ol | 520 mg, 70% yield | FC=1C=C(C=CC1OC(C)C)C=1N=C(C2=CC=C(C=C2C1)OC)O | C19H18FNO3
